* File: dff.pex.netlist.pex
* Created: Thu May 30 08:45:01 2024
* Program "Calibre xRC"
* Version "v2017.4_19.14"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_DFF%VDD 35 36 37 38 43 48 53 58 65 66 70 75 80 81 85 86 90 95 96 217
c0 267 0 0.0760046f
c1 263 0 0.05675f
c2 247 0 0.015961f
c3 243 0 0.0933956f
c4 240 0 0.136024f
c5 234 0 0.0644488f
c6 229 0 0.0736363f
c7 228 0 0.0699924f
c8 223 0 0.025522f
c9 218 0 0.109562f
c10 217 0 0.126358f
c11 209 0 0.0214092f
c12 207 0 0.0383285f
c13 200 0 0.0680263f
c14 196 0 0.59158f
c15 194 0 0.11509f
c16 183 0 0.098119f
c17 167 0 0.0972589f
c18 164 0 0.0117437f
c19 159 0 0.0417153f
c20 154 0 0.00186909f
c21 151 0 0.087301f
c22 148 0 0.0397682f
c23 134 0 0.00635474f
c24 132 0 0.0493518f
c25 118 0 0.0677144f
c26 102 0 0.0762309f
c27 101 0 0.00314401f
c28 99 0 0.249556f
c29 93 0 0.287175f
c30 89 0 0.23745f
c31 84 0 0.255698f
c32 78 0 0.209634f
c33 77 0 0.00170248f
c34 73 0 0.182289f
c35 69 0 0.262031f
c36 64 0 0.0668052f
c37 61 0 0.131427f
c38 56 0 0.228832f
c39 51 0 0.112442f
c40 50 0 0.0141763f
c41 46 0 0.210317f
c42 45 0 0.0168711f
c43 41 0 0.131625f
c44 38 0 0.0337601f
c45 35 0 0.00867995f
c46 33 0 0.0828667f
c47 31 0 0.100418f
c48 27 0 0.0256592f
c49 26 0 0.126769f
c50 25 0 0.125296f
c51 23 0 0.0738101f
c52 22 0 0.84598f
c53 21 0 0.0331392f
c54 18 0 0.00474614f
c55 12 0 0.14554f
c56 11 0 0.0167641f
c57 10 0 0.0253197f
c58 9 0 0.0307672f
c59 6 0 0.1477f
r60 237 267 0.0379726
r61 234 267 0.0379726
r62 215 244 0.00174129
r63 215 217 0.11338
r64 214 241 0.0156112
r65 214 217 0.0670423
r66 210 267 0.00763636
r67 210 265 0.0309966
r68 209 212 0.01196
r69 209 210 8
r70 204 207 0.0413559
r71 194 197 0.01326
r72 194 196 0.0487391
r73 192 196 1.2389
r74 183 237 0.132857
r75 182 183 16.3327
r76 180 267 0.000848485
r77 179 182 12.42
r78 179 180 16.3327
r79 175 234 0.0685714
r80 175 235 0.132857
r81 174 175 16.3327
r82 171 263 0.0153671
r83 171 235 0.028341
r84 170 174 12.42
r85 170 171 16.3327
r86 167 226 0.0918873
r87 166 167 16.3327
r88 164 259 0.00289354
r89 164 224 0.0359351
r90 164 226 0.0359351
r91 163 166 12.42
r92 163 164 16.3327
r93 159 224 0.091493
r94 159 223 0.0918873
r95 158 159 16.3327
r96 155 223 0.0222341
r97 155 257 0.0175896
r98 154 158 12.42
r99 154 155 16.3327
r100 151 231 0.11625
r101 150 151 16.3327
r102 148 261 0.00169633
r103 148 228 0.0431101
r104 148 231 0.0431101
r105 147 150 12.42
r106 147 148 16.3327
r107 143 228 0.11625
r108 143 229 0.0625
r109 142 143 16.3327
r110 139 229 0.0794875
r111 139 256 0.00308075
r112 139 204 8
r113 138 142 12.42
r114 138 139 16.3327
r115 135 221 0.114211
r116 134 135 16.3327
r117 132 253 0.0013633
r118 132 218 0.0425458
r119 132 221 0.0425458
r120 131 134 12.402
r121 131 132 16.3327
r122 127 218 0.113965
r123 127 219 0.132877
r124 126 127 16.3327
r125 123 219 0.0227722
r126 122 126 12.42
r127 122 123 16.3327
r128 118 251 0.124564
r129 118 194 8
r130 114 247 0.0196623
r131 113 114 16.3327
r132 110 244 0.000634441
r133 109 110 16.3327
r134 102 240 0.070981
r135 102 241 0.000422535
r136 101 102 16.3327
r137 99 265 0.168778
r138 98 99 8.16635
r139 96 98 2.295
r140 95 98 2.295
r141 93 263 0.196
r142 92 93 8.16635
r143 90 92 2.295
r144 89 261 0.196
r145 88 89 8.16635
r146 86 88 2.295
r147 85 88 2.295
r148 84 259 0.113556
r149 83 84 8.16635
r150 81 83 2.286
r151 80 83 2.304
r152 78 257 0.113556
r153 77 78 8.16635
r154 75 77 2.286
r155 73 256 0.175778
r156 72 73 8.16635
r157 70 72 2.295
r158 69 253 0.194444
r159 68 69 8.16635
r160 66 68 2.304
r161 65 68 2.286
r162 64 296 0.038525
r163 64 295 0.0330769
r164 64 200 8
r165 61 295 0.0412222
r166 60 64 16.3327
r167 60 61 16.3327
r168 58 60 2.286
r169 56 251 0.270968
r170 55 56 8.16635
r171 53 55 2.304
r172 51 243 0.0521613
r173 50 51 8.16635
r174 48 50 2.304
r175 46 240 0.104097
r176 45 46 8.16635
r177 43 45 2.286
r178 41 247 0.270968
r179 40 41 8.16635
r180 38 40 2.286
r181 37 163 6.21
r182 37 158 6.21
r183 36 109 13.2128
r184 36 101 13.2128
r185 36 217 16.3327
r186 35 179 6.21
r187 35 174 6.21
r188 35 147 6.21
r189 35 142 6.21
r190 35 131 6.21
r191 35 126 6.21
r192 35 113 13.2128
r193 35 118 8.16635
r194 34 167 0.145718
r195 33 135 0.0270175
r196 31 192 0.0486091
r197 30 31 8
r198 28 30 0.0190086
r199 27 33 0.0357796
r200 26 139 0.0411913
r201 26 27 0.180469
r202 25 123 0.0172922
r203 25 296 0.0998667
r204 23 30 0.0472155
r205 22 34 0.0403372
r206 22 23 1.44846
r207 21 28 0.0278435
r208 20 243 0.0246955
r209 20 110 0.116103
r210 20 21 0.120217
r211 19 114 0.019452
r212 18 118 0.0397676
r213 18 19 0.0755556
r214 12 212 0.0183956
r215 12 207 0.790317
r216 10 200 0.0488691
r217 10 11 0.0754
r218 8 11 0.036322
r219 8 9 0.160588
r220 7 197 0.0250176
r221 6 9 0.0363174
r222 6 7 0.242157
.ends

.subckt PM_DFF%I1VO 15 16 20 27 31
c0 44 0 0.0764791f
c1 42 0 0.0675829f
c2 40 0 0.0699574f
c3 36 0 0.119007f
c4 34 0 0.102951f
c5 29 0 0.132672f
c6 27 0 0.224776f
c7 23 0 0.0824658f
c8 19 0 0.328493f
c9 15 0 0.0323057f
c10 11 0 0.0488087f
c11 9 0 0.0637668f
c12 8 0 0.0548943f
c13 2 0 0.0938537f
r14 42 44 0.048067
r15 34 42 8
r16 33 36 6.20426
r17 33 34 13.2552
r18 29 36 4.73303
r19 29 31 33.25
r20 25 36 4.73303
r21 25 27 76.25
r22 22 23 16.3327
r23 20 22 4.608
r24 18 19 8.16635
r25 16 18 2.304
r26 15 18 2.286
r27 14 40 0.047937
r28 13 14 8
r29 11 23 0.049359
r30 11 13 0.0184347
r31 10 19 0.520435
r32 9 10 0.0397921
r33 8 13 0.0217865
r34 8 9 0.0917241
r35 4 44 0.219216
r36 2 4 0.0363174
r37 2 40 0.230686
.ends

.subckt PM_DFF%GND 25 90 95 100 105 110 115 170
c0 171 0 0.0589614f
c1 170 0 0.0617423f
c2 167 0 0.00372479f
c3 164 0 0.119066f
c4 161 0 0.216939f
c5 158 0 0.34224f
c6 155 0 0.00603955f
c7 152 0 0.268017f
c8 135 0 0.0511973f
c9 132 0 0.0513004f
c10 131 0 0.064566f
c11 128 0 0.123609f
c12 126 0 0.0529185f
c13 123 0 0.150265f
c14 121 0 0.0774759f
c15 117 0 0.0162662f
c16 113 0 0.115647f
c17 108 0 0.109285f
c18 98 0 0.10993f
c19 93 0 0.175942f
c20 78 0 0.00935586f
c21 74 0 0.0130867f
c22 66 0 0.0141401f
c23 56 0 0.0454483f
c24 51 0 0.122543f
c25 46 0 0.00653738f
c26 37 0 0.0532094f
c27 25 0 0.010633f
c28 24 0 0.0890729f
c29 21 0 0.0288094f
c30 20 0 0.0562434f
c31 19 0 0.0724409f
c32 18 0 0.0382606f
c33 17 0 0.0975268f
c34 16 0 0.0376868f
c35 10 0 0.0346217f
c36 8 0 0.0534532f
c37 6 0 0.0161863f
c38 5 0 0.133077f
r39 168 170 0.201127
r40 167 170 0.104507
r41 153 171 0.0226464
r42 132 168 0.0375629
r43 131 133 0.0580154
r44 131 132 8
r45 126 128 0.0488691
r46 126 127 8
r47 121 123 0.0474141
r48 117 118 16.3327
r49 115 117 4.572
r50 113 146 0.117444
r51 112 113 16.3327
r52 110 112 4.59
r53 108 143 0.135513
r54 107 108 16.3327
r55 105 107 4.59
r56 102 127 16.3327
r57 100 102 4.572
r58 98 140 0.117444
r59 97 98 16.3327
r60 95 97 4.572
r61 93 174 0.135625
r62 92 93 16.3327
r63 90 92 4.572
r64 87 132 16.3327
r65 82 170 8.16635
r66 79 167 0.0172831
r67 78 82 12.42
r68 78 79 16.3327
r69 75 164 0.0257414
r70 74 75 16.3327
r71 70 164 0.265192
r72 70 165 0.125192
r73 69 70 8.16635
r74 66 146 0.00307259
r75 66 161 0.0455217
r76 66 165 0.0455217
r77 65 69 12.42
r78 65 66 16.3327
r79 62 161 0.480577
r80 62 162 0.310962
r81 61 62 5.44423
r82 56 143 0.0003892
r83 56 158 0.0409366
r84 56 162 0.0409366
r85 55 56 16.3327
r86 51 155 0.10569
r87 47 155 0.0191639
r88 46 47 16.3327
r89 43 158 0.496462
r90 43 159 0.311231
r91 42 43 5.44423
r92 37 140 0.00307259
r93 37 152 0.0455217
r94 37 159 0.0455217
r95 36 37 16.3327
r96 32 152 0.480308
r97 32 153 0.117385
r98 28 174 0.0471626
r99 28 171 0.00233333
r100 28 121 8
r101 27 28 16.3327
r102 25 87 18.63
r103 25 82 6.21
r104 25 74 18.63
r105 25 69 6.21
r106 25 61 6.21
r107 25 55 18.63
r108 25 46 12.42
r109 25 51 8.16635
r110 25 42 6.21
r111 25 36 18.63
r112 25 27 10.98
r113 25 32 8.16635
r114 24 135 0.0389333
r115 23 24 8
r116 21 75 0.0172773
r117 20 23 0.0447692
r118 20 21 0.0389231
r119 19 118 0.0516853
r120 18 79 0.0241963
r121 18 19 0.144565
r122 17 127 0.0425164
r123 16 47 0.0199708
r124 16 17 0.100882
r125 11 133 0.0127143
r126 11 135 0.0951449
r127 10 128 0.4199
r128 7 10 0.039444
r129 7 8 0.104464
r130 5 8 0.0376451
r131 5 6 0.167917
r132 3 6 0.0365589
r133 3 123 0.38125
.ends

.subckt PM_DFF%I1VI2 24 25 29 36 43 46 50 54 58 62
c0 106 0 0.0929941f
c1 103 0 0.0236799f
c2 90 0 0.0967305f
c3 89 0 0.0449123f
c4 86 0 0.141105f
c5 85 0 0.091996f
c6 80 0 0.108819f
c7 78 0 0.109992f
c8 72 0 0.129074f
c9 71 0 0.10287f
c10 68 0 0.101028f
c11 62 0 0.142633f
c12 58 0 0.226554f
c13 54 0 0.108212f
c14 48 0 0.180491f
c15 46 0 0.261627f
c16 41 0 0.0916419f
c17 39 0 0.31898f
c18 32 0 0.105175f
c19 28 0 0.196219f
c20 23 0 0.0024841f
c21 17 0 0.0426473f
c22 16 0 0.15235f
c23 13 0 0.0174766f
c24 12 0 0.346994f
c25 11 0 0.580211f
c26 7 0 0.0967616f
c27 5 0 0.0197472f
c28 4 0 0.413383f
c29 3 0 0.393632f
r30 90 97 0.0327755
r31 89 92 0.0449834
r32 89 90 8
r33 86 100 0.0939434
r34 85 86 8
r35 82 85 0.01469
r36 78 106 0.0562531
r37 77 80 5.64894
r38 77 78 13.2552
r39 72 103 0.0536443
r40 71 74 5.34255
r41 71 72 13.2552
r42 65 68 5.15106
r43 65 86 13.2552
r44 60 80 4.73303
r45 60 62 37.5
r46 56 80 4.73303
r47 56 58 72
r48 52 74 4.73303
r49 52 54 27.25
r50 48 74 4.73303
r51 48 50 50.25
r52 44 68 4.73303
r53 44 46 88.25
r54 41 68 4.73303
r55 41 43 21.25
r56 38 39 16.3327
r57 36 38 4.59
r58 32 97 0.0381111
r59 31 90 16.3327
r60 31 32 16.3327
r61 29 31 2.295
r62 27 28 8.16635
r63 25 27 2.304
r64 24 27 2.286
r65 22 32 0.0855556
r66 22 23 0.0178889
r67 21 39 0.255111
r68 21 23 0.0178889
r69 20 28 0.167391
r70 19 23 0.0684783
r71 19 106 0.27087
r72 17 20 0.039111
r73 16 23 0.0684783
r74 16 17 0.316522
r75 14 103 0.0806522
r76 12 14 0.039111
r77 12 13 0.841522
r78 11 100 0.0274733
r79 10 13 0.039111
r80 10 11 1.40761
r81 7 92 0.248393
r82 4 7 0.0364689
r83 4 5 1.2103
r84 3 5 0.0375346
r85 2 82 0.0155697
r86 2 3 0.614203
.ends

.subckt PM_DFF%CLK 8 12 16 20 27
c0 40 0 0.102671f
c1 38 0 0.0780395f
c2 31 0 0.07137f
c3 30 0 0.093594f
c4 24 0 0.0703923f
c5 23 0 0.0930317f
c6 20 0 0.242561f
c7 16 0 0.164765f
c8 12 0 0.237663f
c9 8 0 0.166673f
c10 2 0 0.327185f
r11 40 42 0.0155378
r12 35 38 0.0472841
r13 31 40 8
r14 30 33 8.07022
r15 30 32 8.07022
r16 30 31 13.2552
r17 27 28 7.5915
r18 24 35 8
r19 23 27 0.478723
r20 23 25 8.07022
r21 23 24 13.2552
r22 20 33 64.75
r23 16 32 44.75
r24 12 28 63.25
r25 8 25 46.25
r26 2 42 0.0244649
r27 2 38 0.71375
.ends

.subckt PM_DFF%QX 16 21 22 26 31 38 41
c0 53 0 0.141103f
c1 52 0 0.0874289f
c2 43 0 0.110858f
c3 41 0 0.161326f
c4 36 0 0.127021f
c5 34 0 0.181208f
c6 20 0 0.247965f
c7 18 0 0.0456403f
c8 13 0 0.159403f
c9 12 0 0.12016f
c10 11 0 0.0503994f
c11 5 0 0.0342766f
c12 4 0 0.715246f
c13 3 0 0.0308813f
r14 52 55 0.0486091
r15 52 53 8
r16 46 53 13.2552
r17 43 46 5.18936
r18 39 43 4.73303
r19 39 41 43.75
r20 36 43 4.73303
r21 36 38 33.75
r22 33 34 16.3327
r23 31 33 4.608
r24 28 29 8.16635
r25 26 28 2.304
r26 24 25 8.16635
r27 22 24 2.286
r28 21 24 2.304
r29 20 25 0.2425
r30 16 18 8
r31 14 34 0.398696
r32 12 29 0.255652
r33 11 16 0.042
r34 11 14 0.0267979
r35 11 13 0.0323147
r36 11 12 0.0267979
r37 9 20 0.0393375
r38 9 13 0.318571
r39 6 18 0.03952
r40 4 6 0.0381928
r41 4 5 1.14866
r42 3 5 0.0373236
r43 3 55 0.0988
.ends

.subckt PM_DFF%Q 13 14 18 25 28 49
c0 49 0 0.196054f
c1 41 0 0.114523f
c2 40 0 0.124141f
c3 32 0 0.0709634f
c4 31 0 0.121971f
c5 28 0 0.19117f
c6 23 0 0.123922f
c7 16 0 0.0235883f
c8 12 0 0.357946f
c9 11 0 0.0574976f
c10 7 0 0.0188993f
c11 6 0 0.176256f
c12 5 0 0.153193f
c13 2 0 0.336857f
r14 41 44 0.02704
r15 37 40 0.0486091
r16 37 49 8
r17 32 44 8
r18 31 34 5.7
r19 31 32 13.2552
r20 26 34 4.82899
r21 26 28 60.75
r22 23 34 4.82899
r23 23 25 33.25
r24 20 49 16.3327
r25 18 20 4.608
r26 16 17 8.16635
r27 14 16 2.286
r28 13 16 2.304
r29 12 17 0.480565
r30 11 49 0.0965517
r31 10 12 0.039111
r32 10 11 0.120217
r33 6 41 0.0215178
r34 6 7 0.470965
r35 4 7 0.0363174
r36 4 5 0.45614
r37 2 5 0.0365199
r38 2 40 0.6487
.ends

.subckt PM_DFF%I3VO 26 27 31 36 43 52 56 60
c0 76 0 0.0646092f
c1 72 0 0.123515f
c2 71 0 0.0888643f
c3 70 0 0.0555162f
c4 66 0 0.0380161f
c5 65 0 0.0941226f
c6 64 0 0.247989f
c7 58 0 0.134557f
c8 56 0 0.226709f
c9 52 0 0.122854f
c10 48 0 0.108775f
c11 45 0 0.0924068f
c12 39 0 0.234781f
c13 34 0 0.18264f
c14 30 0 0.195643f
c15 22 0 0.0579466f
c16 21 0 0.069489f
c17 16 0 0.0443158f
c18 15 0 0.15243f
c19 11 0 0.485659f
c20 8 0 0.34502f
c21 7 0 0.0267719f
c22 6 0 0.263156f
c23 2 0 0.0799195f
r24 76 78 0.0140341
r25 74 76 0.0469773
r26 70 72 0.0469098
r27 70 71 8
r28 62 65 8.07022
r29 62 64 8.07022
r30 62 71 13.2552
r31 58 66 7.73958
r32 58 60 34
r33 54 66 7.73958
r34 54 56 75.5
r35 52 65 28.5
r36 48 76 8
r37 47 48 13.2552
r38 45 66 1.29764
r39 45 47 4.88298
r40 43 64 66
r41 38 39 16.3327
r42 36 38 4.59
r43 33 34 8.16635
r44 31 33 2.295
r45 29 30 8.16635
r46 27 29 2.295
r47 26 29 2.295
r48 25 34 0.163333
r49 23 39 0.412708
r50 22 68 0.0278184
r51 21 23 0.0501644
r52 21 22 8
r53 17 30 0.177234
r54 16 17 0.0391169
r55 15 25 0.038626
r56 15 21 0.0107692
r57 15 16 0.331739
r58 10 11 1.5561
r59 9 74 0.0186524
r60 8 11 0.0364246
r61 8 9 0.680727
r62 6 10 0.0364689
r63 6 7 0.777679
r64 4 7 0.0363532
r65 4 72 0.274717
r66 3 68 0.0195694
r67 2 78 0.0169276
r68 2 3 0.17931
.ends

.subckt PM_DFF%RESET 14 17 21 28 31 36 39
c0 71 0 0.149443f
c1 69 0 0.144102f
c2 66 0 0.0727752f
c3 65 0 0.0914961f
c4 63 0 0.0999506f
c5 58 0 0.0638695f
c6 53 0 0.089918f
c7 51 0 0.082521f
c8 49 0 0.0631f
c9 45 0 0.117314f
c10 44 0 0.0909735f
c11 43 0 0.0256757f
c12 42 0 0.111069f
c13 41 0 0.0191667f
c14 40 0 0.0656171f
c15 37 0 0.115625f
c16 34 0 0.0822959f
c17 26 0 0.402106f
c18 25 0 0.139761f
c19 24 0 0.0888005f
c20 23 0 0.0232023f
c21 22 0 0.105599f
c22 19 0 0.0239919f
c23 18 0 0.0832157f
c24 15 0 0.126478f
c25 12 0 0.0879481f
c26 8 0 0.0321588f
c27 5 0 0.1398f
c28 2 0 0.508215f
r29 69 71 0.0357479
r30 65 66 8
r31 60 63 0.0487391
r32 58 69 8
r33 57 58 13.2552
r34 55 57 4.14474
r35 51 53 8.08937
r36 51 66 13.2552
r37 49 60 8
r38 48 49 13.2552
r39 46 48 1.45455
r40 44 57 8.05315
r41 44 45 48.25
r42 42 45 5.02856
r43 42 43 38.25
r44 40 55 4.59572
r45 40 41 29.5
r46 37 43 5.02856
r47 37 39 30
r48 34 41 5.02856
r49 34 36 19
r50 32 53 38
r51 28 31 118
r52 26 32 5.02856
r53 26 31 18.25
r54 24 48 8.11149
r55 24 25 53.5
r56 22 25 5.02856
r57 22 23 34.75
r58 19 21 25.65
r59 18 46 4.49034
r60 18 21 5.625
r61 15 23 5.02856
r62 15 17 30
r63 12 19 5.0467
r64 12 14 19.75
r65 7 8 0.0226161
r66 7 71 0.210395
r67 5 8 0.0116497
r68 4 65 0.0486091
r69 4 5 0.4576
r70 2 8 0.0226161
r71 2 63 1.2129
.ends

.subckt PM_DFF%AS1 2 3
c0 5 0 0.160654f
c1 2 0 0.00445562f
r2 3 5 4.608
r3 2 5 4.572
.ends

.subckt PM_DFF%AS5 2 3
c0 5 0 0.170572f
r1 3 5 4.572
r2 2 5 4.608
.ends

.subckt PM_DFF%AS22 2 3
c0 5 0 0.135299f
r1 3 5 4.608
r2 2 5 4.572
.ends

.subckt PM_DFF%AS2 2 3
c0 5 0 0.142962f
r1 3 5 4.608
r2 2 5 4.572
.ends

.subckt PM_DFF%AS33 2 3
c0 5 0 0.139914f
r1 3 5 4.59
r2 2 5 4.59
.ends

.subckt PM_DFF%AS3 2 3
c0 5 0 0.133199f
r1 3 5 4.59
r2 2 5 4.59
.ends

.subckt PM_DFF%AS66 2 3
c0 5 0 0.141997f
r1 3 5 4.572
r2 2 5 4.608
.ends

.subckt PM_DFF%AS6 2 3
c0 5 0 0.143224f
r1 3 5 4.572
r2 2 5 4.608
.ends

.subckt PM_DFF%AS44 2 3
c0 5 0 0.138386f
c1 2 0 0.00185594f
r2 3 5 4.59
r3 2 5 4.59
.ends

.subckt PM_DFF%AS4 2 3
c0 5 0 0.136013f
c1 2 0 0.00114113f
r2 3 5 4.59
r3 2 5 4.59
.ends

.subckt PM_DFF%I1VI1 21 22 26 31 38 42 45 49
c0 65 0 0.088806f
c1 60 0 0.202058f
c2 59 0 0.108082f
c3 55 0 0.0984823f
c4 54 0 0.104475f
c5 53 0 0.0232179f
c6 52 0 0.104363f
c7 51 0 0.0214868f
c8 50 0 0.0750445f
c9 47 0 0.122708f
c10 45 0 0.0967229f
c11 40 0 0.143477f
c12 38 0 0.245645f
c13 34 0 0.243187f
c14 29 0 0.0986481f
c15 25 0 0.189101f
c16 20 0 0.00525477f
c17 16 0 0.00998442f
c18 15 0 0.169826f
c19 12 0 0.047603f
c20 11 0 0.0502574f
c21 10 0 0.141167f
c22 8 0 0.386719f
c23 7 0 0.464389f
c24 5 0 0.0236195f
c25 4 0 0.86902f
c26 3 0 0.380357f
r27 65 76 0.0525334
r28 64 65 13.2552
r29 62 64 7.96651
r30 59 60 13.2552
r31 56 59 5.28511
r32 54 64 5.67938
r33 54 55 21.0484
r34 52 55 5.50315
r35 52 53 32.75
r36 50 62 4.20389
r37 50 51 32.75
r38 47 53 5.02856
r39 47 49 30
r40 43 51 5.02856
r41 43 45 23
r42 40 56 4.73303
r43 40 42 34.75
r44 36 56 4.73303
r45 36 38 74.75
r46 33 34 16.3327
r47 31 33 4.59
r48 28 29 8.16635
r49 26 28 2.295
r50 24 25 8.16635
r51 22 24 2.295
r52 21 24 2.295
r53 19 29 0.133913
r54 19 20 0.035
r55 18 34 0.532609
r56 18 20 0.035
r57 17 25 0.104407
r58 14 15 0.687826
r59 13 20 0.035
r60 12 14 0.039111
r61 12 13 0.103478
r62 11 17 0.0398959
r63 10 20 0.035
r64 10 11 0.343913
r65 9 16 0.0312312
r66 8 15 0.039111
r67 8 9 0.926739
r68 7 16 0.00640368
r69 7 76 0.878571
r70 4 16 0.0312312
r71 4 5 2.00413
r72 3 5 0.0394375
r73 2 60 0.115373
r74 2 3 0.593704
.ends

.subckt PM_DFF%D 2 5 7
c0 2 0 0.464739f
r1 5 7 77
r2 2 5 56
.ends

